US06121308
1-methyl-2-[(4-amidinophenyl)-oxymethyl]-5-[N-(methoxycarbonylmethyl)-quinoline-8-sulphonylamino)-benzimidazole
Prepared analogously to Example 1e from 1-methyl-2-[(4-cyanophenyl)-oxymethyl]-5-[N-(methoxycarbonylmethyl)-quinoline-8-sulphonylamino)-benzimidazole and methanolic hydrochloric acid, methanol and ammonium carbonate.

reactant | 1-methyl-2-[(4-cyanophenyl)-oxymethyl]-5-[N-(methoxycarbonylmethyl)-quinoline-8-sulphonylamino)-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OC)S(=O)(=O)C=2C=CC=C1C=CC=NC21)COC2=CC=C(C=C2)C#N | C28H23N5O5S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | methanol | CO | CH4O
product | 1-methyl-2-[(4-amidinophenyl)-oxymethyl]-5-[N-(methoxycarbonylmethyl)-quinoline-8-sulphonylamino)-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OC)S(=O)(=O)C=2C=CC=C1C=CC=NC21)COC2=CC=C(C=C2)C(N)=N | C28H26N6O5S
